US04597902
N-[2-[(4-Chlorophenyl)sulfonyl]ethyl]-1-methylethanamine hydrochloride
When in the procedure of Preparation 29, N-[2-[(4-chlorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester is substituted for N-[2-[(3,4-dichlorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester, the title compound is obtained.

reactant | N-[2-[(4-chlorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester | C1(=CC=CC=C1)OC(N(C(C)C)CCS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C18H20ClNO4S
reactant | N-[2-[(3,4-dichlorophenyl)sulfonyl]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester | C1(=CC=CC=C1)OC(N(C(C)C)CCS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C18H19Cl2NO4S
product | N-[2-[(4-Chlorophenyl)sulfonyl]ethyl]-1-methylethanamine hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)CCNC(C)C | InChI=1S/C11H16ClNO2S.ClH/c1-9(2)13-7-8-16(14,15)11-5-3-10(12)4-6-11;/h3-6,9,13H,7-8H2,1-2H3;1H
